US05023256
Grams 47.4 of 2-chloro-3-nitropyridine are refluxed for 2 hours in 600 ml toluene with 33 ml benzylamine and 31.8 g sodium carbonate. The reaction mixture is cooled to room temperature and 200 ml water are added thereto. The phases are separated, the organic phase evaporated to small volume, diluted with 400 ml isopropyl ether and kept under stirring for 30 minutes while cooling with water. It is filtered, washed with isopropyl ether, evaporated to dryness to give 46 g 2-benzylamino-3-nitropyridine melting at 81°-82° C.

reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | benzylamine | 33 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium carbonate | 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzylamino-3-nitropyridine | 46 g | C(C1=CC=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C12H11N3O2
